US05753682
To a stirred solution of 2-methylimidazole (25 g, 0.3 mol) and 3-bromobenzo-nitrile (55 g, 0.3 mol) in pyridine (60 mL) was added K2CO3 (42 g), CuO (1.5 g), Cu powder (1.5 g) and CuBr (1.5 g) under a nitrogen atmosphere. The resulting mixture was heated at reflux temperature for 64 hr. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with dichloromethane-methanol (10:1) to afford 12.9 g (23%) of 3-(2-methylimidazol-1-yl)benzonitrile as white solids.

reactant | 2-methylimidazole | 0.3 mol, 25 g | CC=1NC=CN1 | C4H6N2
reactant | 3-bromobenzo-nitrile | 0.3 mol, 55 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | K2CO3 | 42 g | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2-methylimidazol-1-yl)benzonitrile | 12.9 g, 23% | CC=1N(C=CN1)C=1C=C(C#N)C=CC1 | C11H9N3
